US04910190
a. 4-Ethoxycarbonylbenzenepropanoic acid
A solution of 4-carbethoxycinnamic acid (4.9 g) in EtOH (120 ml) was hydrogenated over 5% Rh/C (485 mg) at atmospheric pressure for 21 hr. The solution was filtered and stripped. The residue was crystallized from cyclohexane to afford 2.23 g (46%) of the title compound as white crystals; mp 108.5°-110.5°.

reactant | 4-carbethoxycinnamic acid | 4.9 g | C(=O)(OCC)C1=CC=C(C=CC(=O)O)C=C1 | C12H12O4
solvent | EtOH | 120 ml | CCO | C2H6O
catalyst | Rh/C | 485 mg | [Rh] | Rh
product | 4-Ethoxycarbonylbenzenepropanoic acid | 2.23 g, 46% | C(C)OC(=O)C1=CC=C(C=C1)CCC(=O)O | C12H14O4
